US05990142
21B 8-[(E)-2-[4-(4-Phenylbutoxy)phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carbonitrile
Following the process described in example 2 (point D), by reacting 8-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxamide with phosphorous oxychloride in DMF for 0.5 h at 0° C., the title compound was prepared (97% yield).

reactant | 8-[(E)-2-[4-(4-phenylbutoxy)phenyl]-ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carboxamide | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C(=O)N)=O | C28H25NO4
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-[(E)-2-[4-(4-Phenylbutoxy)phenyl]ethen-1-yl]-4-oxo-4H-1-benzopyran-2-carbonitrile | 97% yield | C1(=CC=CC=C1)CCCCOC1=CC=C(C=C1)/C=C/C1=CC=CC=2C(C=C(OC21)C#N)=O | C28H23NO3
